US04523014
1-Hexyl-4-(3-Ketophenyl)-piperazine Dihydrochloride
A mixture of 8.5 g (0.05 mole) of a n-hexyl piperazine and 6.8 g (0.056 mole) of 1-chloro-3-pentanone was heated to 140° for 5 minutes. The reaction product was dissolved in isopropanol and acidified with a solution of HCl in isopropanol. The dihydrochloride salt was filtered and crystallized from acetonitrile to give 11.0 g of white solid with a melting point of 230°-233° C.

reactant | n-hexyl piperazine | 0.05 mole, 8.5 g | C(CCCCC)N1CCNCC1 | C10H22N2
reactant | 1-chloro-3-pentanone | 0.056 mole, 6.8 g | ClCCC(CC)=O | C5H9ClO
reactant | HCl | Cl | ClH
reactant | isopropanol | C(C)(C)O | C3H8O
product | 1-Hexyl-4-(3-Ketophenyl)-piperazine Dihydrochloride | 11.0 g | Cl.Cl.C(CCCCC)N1CCN(CC1)C=1CC(C=CC1)=O | InChI=1S/C16H26N2O.2ClH/c1-2-3-4-5-9-17-10-12-18(13-11-17)15-7-6-8-16(19)14-15;;/h6-8H,2-5,9-14H2,1H3;2*1H
